US07202363B2
7-iodo-3-(4-phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine
3-(4-Phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine (0.11 g, 0.36 mmol) and N-iodosuccinimide (0.098 g, 0.43 mmol) in N,N-dimethylformamide (1.5 mL) was stirred at ambient temperature for 30 minutes. The mixture was applied to a silica gel column and eluted with dichloromethane/ethyl acetate (8:2) to provide the title compound (100 mg): 1H NMR (DMSO-d6, 400 MHz) δ 8.26 (s, 1H), 7.71 (d, 2H), 7.46 (t, 2H), 7.15–7.25 (m, 5H), 6.45 (bs, 2H); Rt=3.78 min (Conditions a), MS m/e: 430 (M+H)+ b)

reactant | 3-(4-Phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine | 0.36 mmol, 0.11 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NOC2=C1C(=NC=C2)N | C18H13N3O2
reactant | N-iodosuccinimide | 0.43 mmol, 0.098 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 7-iodo-3-(4-phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine | 100 mg | IC=1C2=C(C(=NC1)N)C(=NO2)C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H12IN3O2
